US04462819
Preparation of 4-Hydroxyaminobenzeneboronic Acid Hydrochloride
Employing the procedure of Example II, 1.1 gms of 4-nitrophenylboronic acid was hydrogenated at 42 psi in 50 ml of methanol containing 0.7 ml of conc. HCl on a Parr shaker hydrogenation apparatus for 3 hours using palladium on carbon as catalyst. After filtering, the filtrate was concentrated yielding 0.91 gms of a white-powdery solid having a melting point of 200°-205° C. (decomposition).

reactant | 4-nitrophenylboronic acid | 1.1 gms | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-Hydroxyaminobenzeneboronic Acid Hydrochloride | 0.91 gms | Cl.ONC1=CC=C(C=C1)B(O)O | InChI=1S/C6H8BNO3.ClH/c9-7(10)5-1-3-6(8-11)4-2-5;/h1-4,8-11H;1H
